US06506747B1
Synthesis of [4-(5-Cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-[4-(3-cyanopropoxy)benzyl]-amine
3-(3-Pyridyl)-5-cyano-1-(4′-aminophenyl)pyrazole (0.5 mmol) was dissolved in MeOH (4 mL) and treated with HOAc (4 mL). The reaction was treated with a solution of 4-(3-cyanobutoxy)benzaldehyde (from Example above) (0.75 mmol) in MeOH (1 mL) and stirred at room temperature for 30 minutes. NaCNBH3 (1.25 mmol) was added in one portion. After 2 hr, volatiles were removed, the residue taken up in water, neutralized with NaHCO3 (aq) and extracted with dichloromethane. Organic extracts were combined, dried over MgSO4 and concentrated to leave a clear oil. Pure product was eluted from silica gel column using 50% dichloromethane in EtOAc giving a light yellow solid (140 mg, 64%), m.p. 128-129° C. 1H NMR (CDCl3): δ 1.98-2.04 (m, 2H), 2.63-2.66 (t, J=7.1 Hz, 2H), 4.00-4.04 (t, J=6 Hz, 2H), 4.27-4.29 (d, J=5.8 Hz, 2H), 6.72-6.79 (m, 3H), 6.92-6.94 (d, J=8.5 Hz, 2H), 7.31-7.33 (d, J=8.5 Hz, 2H), 7.42-7.44 (d, J=8.7 Hz, 2H), 7.50-7.53 (m, 1H), 7.96 (s, 1H), 8.24-8.26 (d, J=8 Hz, 1H), 8.60-8.61 (d, J=4.6 Hz, 1H), 9.10 (s, 1H).

reactant | 3-(3-Pyridyl)-5-cyano-1-(4′-aminophenyl)pyrazole | 0.5 mmol | N1=CC(=CC=C1)C1=NN(C(=C1)C#N)C1=CC=C(C=C1)N | C15H11N5
reactant | HOAc | 4 mL | CC(=O)O | C2H4O2
reactant | 4-(3-cyanobutoxy)benzaldehyde | 0.75 mmol | C(#N)C(CCOC1=CC=C(C=O)C=C1)C | C12H13NO2
reactant | NaCNBH3 | 1.25 mmol | [BH3-]C#N.[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
product | [4-(5-Cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-[4-(3-cyanopropoxy)benzyl]-amine | C(#N)C1=CC(=NN1C1=CC=C(C=C1)NCC1=CC=C(C=C1)OCCCC#N)C=1C=NC=CC1 | C26H22N6O
